US08703758B2
A) 8-(6-hydroxy-1,3-benzoxazol-2-yl)-8-azabicyclo[3.2.1]octan-3-one
By a method similar to Example 1, step F, and using 8-azabicyclo[3.2.1]octan-3-one and 2-chloro-1,3-benzoxazol-6-ol, the title compound was obtained.

reactant | 8-azabicyclo[3.2.1]octan-3-one | C12CC(CC(CC1)N2)=O | C7H11NO
reactant | 2-chloro-1,3-benzoxazol-6-ol | ClC=1OC2=C(N1)C=CC(=C2)O | C7H4ClNO2
product | 8-(6-hydroxy-1,3-benzoxazol-2-yl)-8-azabicyclo[3.2.1]octan-3-one | OC1=CC2=C(N=C(O2)N2C3CC(CC2CC3)=O)C=C1 | C14H14N2O3
